US06492394B1
To a stirred solution of tert-butyl 2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-phthalimido-propionate (3.9 g, 6.2 mmol) in a mixture of 78% methylene chloride/methanol (47 ml) was added hydrazine hydrate (3.9 ml, 125 mmol) and the mixture was stirred for five hours, at which time a solid precipitate of phthalhydrazide was observed to form. The material was filtered, washing with methylene chloride, to remove the precipitate. The filtrate was then evaporated on the rotovap and taken up in methylene chloride (80 ml) and transferred to a separatory funnel. After partitioning with an equal volume of water, the organic phase was collected and washed with an equal volume of brine. The aqueous phases were back extracted with methylene chloride (2×80 ml). The methylene chloride phases were combined, dried (MgSO4), filtered and condensed to provide tert-butyl 2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-amino-propionate as a white semi-solid (3.0 g).

reactant | tert-butyl 2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-phthalimido-propionate | 6.2 mmol, 3.9 g | C1OC=2C=C(CN([C@@H](C(=O)OC(C)(C)C)CN3C(C=4C(C3=O)=CC=CC4)=O)S(=O)(=O)C4=C(C=C(C=C4C)OC)C)C=CC2O1 | C32H34N2O9S
reactant | hydrazine hydrate | 125 mmol, 3.9 ml | O.NN
reactant | phthalhydrazide | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
solvent | methylene chloride methanol | 47 ml | C(Cl)Cl.CO
product | tert-butyl 2(R)-[(3,4-methylendioxybenzyl)-(2,6-dimethyl-4-methoxybenzenesulfonyl)amino]-3-amino-propionate | 3.0 g | C1OC=2C=C(CN([C@@H](C(=O)OC(C)(C)C)CN)S(=O)(=O)C3=C(C=C(C=C3C)OC)C)C=CC2O1 | C24H32N2O7S
